US07863332B2
g. Synthesis of 3-[3′-(3-heptyl-1-methylureido)-2-methoxybiphenyl-4-yl]propanoic acid
200 mg (5.0 mmol, 4.2 eq) of sodium hydroxide are added to a solution of 525 mg (1.19 mmol, 1 eq) of methyl 3-[3′-(3-heptyl-1-methylureido)-2-methoxybiphenyl-4-yl]propanoate in 6 ml of a tetrahydrofuran/methanol mixture (8/2). The reaction mixture is stirred at room temperature for 3 hours. The reaction medium is hydrolyzed with water, acidified with acetic acid solution and extracted with ethyl acetate. The organic phases are combined, washed with sodium chloride solution and dried over sodium sulfate. The solvent is evaporated off and the residual oil is chromatographed on silica (7/3 to 1/1 heptane/ethyl acetate). The product is crystallized from pentane and 216 mg of 3-[3′-(3-heptyl-1-methylureido)-2-methoxybiphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=100-101° C.). Yield=42%

reactant | sodium hydroxide | 5.0 mmol, 200 mg, 4.2 eq | [OH-].[Na+]
reactant | methyl 3-[3′-(3-heptyl-1-methylureido)-2-methoxybiphenyl-4-yl]propanoate | 1.19 mmol, 525 mg, 1 eq | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)OC)OC)=O | C26H36N2O4
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran methanol | 6 ml | O1CCCC1.CO
product | 3-[3′-(3-heptyl-1-methylureido)-2-methoxybiphenyl-4-yl]propanoic acid | Yield=42% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)O)OC)=O | C25H34N2O4
